US09079866B2
{[4′-(2-Aminopyrimidin-5-yl)-3′-fluorobiphenyl-2-yl]oxy}acetonitrile
The title compound was prepared in a manner similar to that described in Example 88 using 2-(2-bromophenoxy)acetonitrile and 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine. MS (ESI): mass calcd. for C18H13FN4O, 320.11; m/z found, 320.9 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.47 (d, J=1.5, 2H), 7.60-7.56 (m, 1H), 7.46-7.34 (m, 4H), 7.26 (d, J=8.0, 1H), 7.18-7.14 (m, 1H), 6.87 (s, 2H), 5.18 (s, 2H).

reactant | 2-(2-bromophenoxy)acetonitrile | BrC1=C(OCC#N)C=CC=C1 | C8H6BrNO
reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
product | {[4′-(2-Aminopyrimidin-5-yl)-3′-fluorobiphenyl-2-yl]oxy}acetonitrile | NC1=NC=C(C=N1)C1=C(C=C(C=C1)C1=C(C=CC=C1)OCC#N)F | C18H13FN4O
